US05354730
To a solution of 1-[6-fluoro-3-sec-butyl-2(3H)-benzothiazolon-5-yl]-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione (2.0 g) in dimethylformamide (10 g), sodium hydride (0.3 g) and 2,4-dinitrophenoxyamine (1.8 g) were added, and the resultant mixture was heated at 40 to 60° C. for 3 hours. After completion of the reaction, the reaction mixture was poured into water, extracted with ethyl acetate and concentrated. The residue was purified by silica gel column chromatography to give 1-[6-fluoro-3-sec-butyl-2(3H)-benzothiazolon-5-yl]-3-amino-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione (0.4 g).

reactant | 1-[6-fluoro-3-sec-butyl-2(3H)-benzothiazolon-5-yl]-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 2.0 g | FC1=CC2=C(N(C(S2)=O)C(C)CC)C=C1N1C(NC(=CC1=O)C(F)(F)F)=O | C16H13F4N3O3S
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 2,4-dinitrophenoxyamine | 1.8 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
reactant | water | O | H2O
solvent | dimethylformamide | 10 g | CN(C=O)C | C3H7NO
product | 1-[6-fluoro-3-sec-butyl-2(3H)-benzothiazolon-5-yl]-3-amino-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 0.4 g | FC1=CC2=C(N(C(S2)=O)C(C)CC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)N)=O | C16H14F4N4O3S
